US09359377B2
To a solution of methyl 6H-thieno[2,3-b]pyrrole-5-carboxylate (100 mg, 0.55 mmol) in DMF (2 mL) was added sodium hydride (15 mg, 0.63 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 1 hour before 2-bromo-1-(4-methoxyphenyl)ethanone (251 mg, 1.1 mmol) was added. After 5 minutes, the reaction was allowed to warm to room temperature and stirred for 1 hour. The mixture was then poured into ice water and the resulting precipitate collected by filtration and washed with hexanes to yield methyl 6-[2-(4-methoxyphenyl)-2-oxoethyl]-6H-thieno[2,3-b]pyrrole-5-carboxylate (100 mg, 55% yield) as a white solid. ESI-MI m/z [M+H]+ 330.15. 1H NMR (400 MHz, CDCl3) δ 8.02 (d, J=8.8 Hz, 2H), 7.25 (s, 1H), 7.02 (d, J=5.3 Hz, 1H), 6.99 (d, J=8.8 Hz, 2H), 6.91 (d, J=5.3 Hz, 1H), 5.84 (s, 2H), 3.90 (s, 3H), 3.78 (s, 3H).

reactant | methyl 6H-thieno[2,3-b]pyrrole-5-carboxylate | 0.55 mmol, 100 mg | S1C=CC2=C1NC(=C2)C(=O)OC | C8H7NO2S
reactant | sodium hydride | 0.63 mmol, 15 mg | [H-].[Na+]
reactant | 2-bromo-1-(4-methoxyphenyl)ethanone | 1.1 mmol, 251 mg | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl 6-[2-(4-methoxyphenyl)-2-oxoethyl]-6H-thieno[2,3-b]pyrrole-5-carboxylate | 100 mg, 55% yield | COC1=CC=C(C=C1)C(CN1C2=C(C=C1C(=O)OC)C=CS2)=O | C17H15NO4S
